US05527791
Allyl 3-aminophenoxyacetate
Allyl 3-nitrophenoxyacetate (5 g, 0.021M) was dissolved in a mixture of ethyl acetate (45 ml) and t-butanol (5 ml), and SnCl2.2H2O (23.79 g, 0.105M) added. After stirring and heating at 60° for 1 hour, sodium borohydride (399 mg, 0.0105M) was added in portions, and heating continued for another 2 hours. Solvent was removed, the residue was taken up in water, and the pH adjusted to 7.6 with aqueous NaHCO3. Organics were extracted into ethyl acetate, and the combined organic layers washed with aqueous NaHCO3, water, brine, and dried (MgSO4). Evaporation gave the title compound (2.61 g).

reactant | Allyl 3-nitrophenoxyacetate | 0.021M, 5 g | [N+](=O)([O-])C=1C=C(OCC(=O)OCC=C)C=CC1 | C11H11NO5
reactant | SnCl2.2H2O | 0.105M, 23.79 g | O.O.Cl[Sn]Cl
reactant | sodium borohydride | 0.0105M, 399 mg | [BH4-].[Na+]
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | Allyl 3-aminophenoxyacetate | 2.61 g | NC=1C=C(OCC(=O)OCC=C)C=CC1 | C11H13NO3
